US05650415
4-(3-Bromophenylamino)-3-ethoxycarbonyl-5,8-difluoroquinoline (A712)
The reaction mixture of 200.0 mg (0.74 mmol) of 4-chloro-3-ethoxycarbonyl-5,8-difluoroquinoline and 155.1 mg (0.88 mmol) of 3-bromoaniline in 4.0 mL of 2-propanol was refluxed for 2 h and cooled down. The yellow precipitate was filtered, washed with cold 2-propanol, and dried in oven at 30° C. overnight to give 122.0 mg (40%) of the title compound.

reactant | 4-chloro-3-ethoxycarbonyl-5,8-difluoroquinoline | 0.74 mmol, 200.0 mg | ClC1=C(C=NC2=C(C=CC(=C12)F)F)C(=O)OCC | C12H8ClF2NO2
reactant | 3-bromoaniline | 0.88 mmol, 155.1 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | 4-(3-Bromophenylamino)-3-ethoxycarbonyl-5,8-difluoroquinoline | 122.0 mg, 40% | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=CC(=C12)F)F)C(=O)OCC | C18H13BrF2N2O2
